US07618978B2
2-(R)-[2-(S)-Amino-3-(3,5-difluorophenyl)-1-(S)-hydroxypropyl]-piperidine-1-carboxylic acid tert-butyl ester
Add 2-(R)-[2-(S)-[bis-(2-methylbenzyl)-amino]-3-(3,5-difluorophenyl)-1-(S)-hydroxypropyl]-piperidine-1-carboxylic acid tert-butyl ester (0.33 g, 0.56 mmol), 20% palladium hydroxide on carbon (230 mg) and methanol (25 mL) and stir under 1 atmosphere of hydrogen gas for 18 h. Add filter agent, filter and concentrate to give the title compound as a foam (0.203 g, 98%).

reactant | 2-(R)-[2-(S)-[bis-(2-methylbenzyl)-amino]-3-(3,5-difluorophenyl)-1-(S)-hydroxypropyl]-piperidine-1-carboxylic acid tert-butyl ester | 0.56 mmol, 0.33 g | C(C)(C)(C)OC(=O)N1[C@H](CCCC1)[C@H]([C@H](CC1=CC(=CC(=C1)F)F)N(CC1=C(C=CC=C1)C)CC1=C(C=CC=C1)C)O | C35H44F2N2O3
reactant | hydrogen | [H][H] | H2
catalyst | palladium hydroxide on carbon | 230 mg | [OH-].[OH-].[Pd+2]
solvent | methanol | 25 mL | CO | CH4O
product | 2-(R)-[2-(S)-Amino-3-(3,5-difluorophenyl)-1-(S)-hydroxypropyl]-piperidine-1-carboxylic acid tert-butyl ester | 0.203 g, 98% | C(C)(C)(C)OC(=O)N1[C@H](CCCC1)[C@H]([C@H](CC1=CC(=CC(=C1)F)F)N)O | C19H28F2N2O3
